US09353107B2
Step-ii: N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluoro phenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)methane sulfonamide (53 mg, 0.184 mmol) was hydrolyzed by lithium hydroxide (18 mg, 0.407 mmol) in THF/methanol/water (15/5/5 ml) to yield 34 mg (85% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.44-8.43 (d, 1H), 8.35-8.34 (d, 1H), 8.23 (s, 1H), 7.953-7.951 (d, 1H), 7.80-7.77 (dd, 1H), 7.66 (s, 1H), 7.59-7.55 (m, 1H), 7.34-7.29 (m, 1H), 6.90-6.86 (m, 2H), 5.43 (s, 2H), 305 (s, 3H). MS: m/z=498.1 (M+1), HPLC: 93.19% in method B.

reactant | N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)methane sulfonamide | 0.184 mmol, 53 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)F)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C31H24F3N5O4S2
reactant | lithium hydroxide | 0.407 mmol, 18 mg | [OH-].[Li+]
solvent | THF methanol water | 5 ml | C1CCOC1.CO.O
product | N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluoro phenyl)methanesulfonamide | 34 mg, 85% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)F)C=C(C1)F | C24H18F3N5O2S
